US04031093
A solution of ethyl 1,6-dihydro-6-oxo-2-(2-n-propoxyphenyl)pyrimidine-5-carboxylate (3.02 g., 0.01 mole) in 1N sodium hydroxide (22 ml.) was heated on a steam bath for 20 minutes. The cooled solution was treated with 1N hydrochloric acid (23 ml.). The precipitated 1,6-dihydro-6-oxo-2-(2-n-propoxyphenyl)pyrimidine-5-carboxylic acid (2.67 g., 97.4% yield), m.p. 203°-206°, was recrystallized from ethanol to give product with m.p. 205.5°-207.5°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-n-propoxyphenyl)pyrimidine-5-carboxylate | 0.01 mole, 3.02 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCC)C(=O)OCC | C16H18N2O4
reactant | hydrochloric acid | 1N, 23 ml | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 22 ml | [OH-].[Na+]
product | 1,6-dihydro-6-oxo-2-(2-n-propoxyphenyl)pyrimidine-5-carboxylic acid | 2.67 g, 97.4% yield | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCC)C(=O)O | C14H14N2O4
